* c:\users\hp\esim-workspace\subtractor\subtractor.cir

.include full_sub.sub
x1 net-_u6-pad4_ net-_u6-pad5_ net-_u6-pad6_ net-_u7-pad1_ net-_u7-pad2_ full_sub
v1 int1 gnd  dc 5
v2 int2 gnd  dc 4
v3 int3 gnd  dc 3
* u6  int1 int2 int3 net-_u6-pad4_ net-_u6-pad5_ net-_u6-pad6_ adc_bridge_3
* u7  net-_u7-pad1_ net-_u7-pad2_ dif borrow dac_bridge_2
* u4  dif plot_v1
* u5  borrow plot_v1
* u1  int1 plot_v1
* u2  int2 plot_v1
* u3  int3 plot_v1
r2  borrow gnd 1k
r1  dif gnd 1k
a1 [int1 int2 int3 ] [net-_u6-pad4_ net-_u6-pad5_ net-_u6-pad6_ ] u6
a2 [net-_u7-pad1_ net-_u7-pad2_ ] [dif borrow ] u7
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(dif)
plot v(borrow)
plot v(int1)
plot v(int2)
plot v(int3)
.endc
.end
